US09062070B2
Mesyl-Cl (17.2 mL, 221 mmol) was added dropwise to a stirred, <5° C. internal temperature mixture of (3R,9aS)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-3-hydroxy-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester (66.6 g, 170 mmol) and triethylamine (71.1 mL, 510 mmol) in CH2Cl2 (1000 mL) (exotherm occurs, so must keep addition slow), and the reaction was allowed to warm to room temperature for 30 minutes, by which time reaction was complete. The solution was washed with 500 mL 10% w/w NaHCO3 aqueous solution. The organics were dried over MgSO4, filtered and concentrated. The resulting material was taken up in a minimal amount of EtOAc (125 mL) with some heating (solution kept<50° C.) until all solids dissolved. The solution was allowed to cool with stirring, then dropwise overnight 350 mL hexanes was added. By the next morning the solution had clarified and there was considerable powder. The solids were collected by filtration and washed with 20% EtOAc/Hexanes, providing product. The mother liquors were concentrated until precipitate appeared, which was filtered to give additional (S)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-6,7,9,9a-tetrahydro-1H-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester.

reactant | (3R,9aS)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-3-hydroxy-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester | 170 mmol, 66.6 g | C(C)(C)(C)OC(=O)N1C[C@H]2CO[C@](CN2CC1)(O)C1=C(C(=C(C=C1)F)C#N)C | C20H26FN3O4
reactant | triethylamine | 510 mmol, 71.1 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1000 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-6,7,9,9a-tetrahydro-1H-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2COC(=CN2CC1)C1=C(C(=C(C=C1)F)C#N)C | C20H24FN3O3
